* C:\Mac\Home\Documents\115DA-Capstone\SAR ADC\SAR_ADC_SIM.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N002 0 0
S1 vsh vhold ctrl 0 MYSW
C1 vhold 0 1n
R1 vhold 0 10G
V§ctrl ctrl 0 PULSE(0 1 0 1u 1u 100u 200u)
Cmsb2 vdac bmsb2 4p
Cmsb1 vdac bmsb1 2p
vdd N001 0 5
Cmsb0 vdac bmsb0 1p
Clsb2 vlsbtop blsb2 4p
Clsb1 vlsbtop blsb1 2p
Clsb0 vlsbtop blsb0 1p
Catt vdac vlsbtop 1.007874p
Rvdac vdac vcm 1T
Rlsb vlsbtop vcm 1T
S2 bmsb6 vcm rst 0 MYSW
S3 bmsb6 vdd msb6h 0 MYSW
S4 bmsb6 vcm msb6l 0 MYSW
S5 blsb6 vcm rst 0 MYSW
S6 blsb6 vdd lsb6h 0 MYSW
S7 blsb6 vcm lsb6l 0 MYSW
X§U1 vhold vdac vdd 0 vcmp level2 Avol=1Meg GBW=100Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1e12 ;§pnba In+)In-)V+)V-)OUT
V2 vsh 0 2.2
S8 bmsb5 vcm rst 0 MYSW
S9 bmsb5 vdd msb5h 0 MYSW
S10 bmsb5 vcm msb5l 0 MYSW
S11 bmsb4 vcm rst 0 MYSW
S12 bmsb4 vdd msb4h 0 MYSW
S13 bmsb4 vcm msb4l 0 MYSW
Cdum vcm vlsbtop 1p
R2 vdd N001 10
R3 vcm N002 10
Cmsb3 vdac bmsb3 8p
Cmsb4 vdac bmsb4 16p
Cmsb5 vdac bmsb5 32p
Cmsb6 vdac bmsb6 64p
Clsb3 vlsbtop blsb3 8p
Clsb4 vlsbtop blsb4 16p
Clsb5 vlsbtop blsb5 32p
Clsb6 vlsbtop blsb6 64p
S14 bmsb3 vcm rst 0 MYSW
S15 bmsb3 vdd msb3h 0 MYSW
S16 bmsb3 vcm msb3l 0 MYSW
S17 bmsb2 vcm rst 0 MYSW
S18 bmsb2 vdd msb2h 0 MYSW
S19 bmsb2 vcm msb2l 0 MYSW
S20 bmsb1 vcm rst 0 MYSW
S21 bmsb1 vdd msb1h 0 MYSW
S22 bmsb1 vcm msb1l 0 MYSW
S23 blsb5 vcm rst 0 MYSW
S24 blsb5 vdd lsb5h 0 MYSW
S25 blsb5 vcm lsb5l 0 MYSW
S26 blsb4 vcm rst 0 MYSW
S27 blsb4 vdd lsb4h 0 MYSW
S28 blsb4 vcm lsb4l 0 MYSW
S29 blsb3 vcm rst 0 MYSW
S30 blsb3 vdd lsb3h 0 MYSW
S31 blsb3 vcm lsb3l 0 MYSW
S32 blsb2 vcm rst 0 MYSW
S33 blsb2 vdd lsb2h 0 MYSW
S34 blsb2 vcm lsb2l 0 MYSW
S35 blsb1 vcm rst 0 MYSW
S36 blsb1 vdd lsb1h 0 MYSW
S37 blsb1 vcm lsb1l 0 MYSW
S38 bmsb0 vcm rst 0 MYSW
S39 bmsb0 vdd msb0h 0 MYSW
S40 bmsb0 vcm msb0l 0 MYSW
S41 blsb0 vcm rst 0 MYSW
S42 blsb0 vdd lsb0h 0 MYSW
S43 blsb0 vcm lsb0l 0 MYSW
S44 vdac vcm rst 0 MYSW
* S/H
* Trial Voltage
.model MYSW SW(Ron=5 Roff=1e9 Vt=0.5 Vh=0)
.tran 160u
* Precharge all bottoms and top-plate to 0V for 9.9us
Vrst rst 0 PULSE(0 1 0 1n 1n 9.9u 200u)
* ------------------------------------------------
* MSB BANK (Range 0V to 5V | Target 2.2V)
* ------------------------------------------------
* MSB6 (Bit 13): Trial -> 2.5V (Too high! Clear it)
Vmsb6h msb6h 0 PWL(0 0 9.9u 0 10u 1 19.9u 1 20u 0 160u 0)
Vmsb6l msb6l 0 PWL(0 0 19.9u 0 20u 1 160u 1)
* MSB5 (Bit 12): Trial -> 1.25V (Keep it!)
Vmsb5h msb5h 0 PWL(0 0 19.9u 0 20u 1 160u 1)
Vmsb5l msb5l 0 PWL(0 0 9.9u 0 10u 1 19.9u 1 20u 0 160u 0)
* MSB4 (Bit 11): Trial -> 1.875V (Keep it!)
Vmsb4h msb4h 0 PWL(0 0 29.9u 0 30u 1 160u 1)
Vmsb4l msb4l 0 PWL(0 0 9.9u 0 10u 1 29.9u 1 30u 0 160u 0)
* MSB3 (Bit 10): Trial -> 2.1875V (Keep it!)
Vmsb3h msb3h 0 PWL(0 0 39.9u 0 40u 1 160u 1)
Vmsb3l msb3l 0 PWL(0 0 9.9u 0 10u 1 39.9u 1 40u 0 160u 0)
* MSB2 (Bit 9): Trial -> 2.343V (Too high! Clear it)
Vmsb2h msb2h 0 PWL(0 0 49.9u 0 50u 1 59.9u 1 60u 0 160u 0)
Vmsb2l msb2l 0 PWL(0 0 9.9u 0 10u 1 49.9u 1 50u 0 59.9u 0 60u 1 160u 1)
* MSB1 (Bit 8): Trial -> 2.265V (Too high! Clear it)
Vmsb1h msb1h 0 PWL(0 0 59.9u 0 60u 1 69.9u 1 70u 0 160u 0)
Vmsb1l msb1l 0 PWL(0 0 9.9u 0 10u 1 59.9u 1 60u 0 69.9u 0 70u 1 160u 1)
* MSB0 (Bit 7): Trial -> 2.226V (Too high! Clear it)
Vmsb0h msb0h 0 PWL(0 0 69.9u 0 70u 1 79.9u 1 80u 0 160u 0)
Vmsb0l msb0l 0 PWL(0 0 9.9u 0 10u 1 69.9u 1 70u 0 79.9u 0 80u 1 160u 1)
* (Remaining LSB trials omitted for brevity, but pattern is the same)
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\oreoturkey\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
